US07919628B2
9.3 g of 4-fluoro-1-methoxynaphthalene-2-carbaldehyde were dissolved in 100 mL of acetonitrile. 2.1 g sodium dihydrogenphsophate monohydrate in 10 mL of water were added, followed by the addition of 9.5 mL hydrogen peroxide (30%). 8.9 g sodium chlorite, dissolved in 20 mL water were added dropwise while maintaining an internal temperature between 5° C. and 15° C. The reaction was then allowed to come to room temp over 2.5 h. The precipitated solid was filtered with suction, and the solid was washed with water, and dried in vacuo at 40° C. to yield 9.4 g of 4-fluoro-1-methoxynaphthalene-2-carboxylic acid. The filtrate was treated with 60 mL of cold 10% aqueous sodium bisulfite solution. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and brine. The organic layer was washed with 0.2 N NaOH twice. The washes were acidified with 6 N HCl to pH 3, whereupon crystallization occurred. The precipitating product was filtered, washed with water and dried in vacuo at 40° C. to yield a second batch of 1.0 g of 4-fluoro-1-methoxynaphthalene-2-carboxylic acid.

reactant | 4-fluoro-1-methoxynaphthalene-2-carbaldehyde | 9.3 g | FC1=CC(=C(C2=CC=CC=C12)OC)C=O | C12H9FO2
reactant | sodium | 2.1 g | [Na] | Na
reactant | hydrogen peroxide | 9.5 mL | OO | H2O2
reactant | sodium chlorite | 8.9 g | Cl(=O)[O-].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-fluoro-1-methoxynaphthalene-2-carboxylic acid | 9.4 g | FC1=CC(=C(C2=CC=CC=C12)OC)C(=O)O | C12H9FO3
